US08466186B2
(c) N-(4-Chloro-3-{3-[2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)-phenyl]-thioureido}-benzyl)-2,2-dimethyl-propionamide
A mixture of 2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)aniline (90 mg, 0.3 mmol) and N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide (93 mg, 0.3 mmol) in THF (10 mL) was stirred at rt for 4 h. The reaction mixture was concentrated and directly used in the next step. Yield: 180 mg (98%). HPLC-method A: Rt=2.23 min. MS m/z: 556 [M+H]+.

reactant | 2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.3 mmol, 90 mg | CNC1=C(N)C=C(C=C1)N1CCC(CC1)C(F)(F)F | C13H18F3N3
reactant | N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide | 0.3 mmol, 93 mg | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-Chloro-3-{3-[2-methylamino-5-(4-trifluoromethyl-piperidin-1-yl)-phenyl]-thioureido}-benzyl)-2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC(=S)NC1=C(C=CC(=C1)N1CCC(CC1)C(F)(F)F)NC | C26H33ClF3N5OS
